US07851473B2
N-(3-Chlorophenyl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.812 mmol) and triethylamine (0.113 ml, 0.812 mmol) in tetrahydrofuran (2 ml) was added 3-chlorophenyl isocyanate (0.148 ml, 1.22 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. The solvent was distilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of hexane and ethyl acetate to give 100 mg (30.9%) of the desired product as a solid.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.812 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | triethylamine | 0.812 mmol, 0.113 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chlorophenyl isocyanate | 1.22 mmol, 0.148 ml | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-(3-Chlorophenyl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 100 mg, 30.9% | ClC=1C=C(C=CC1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C19H18ClN5OS
